US04160765
A solution of 3.7 g of 6-chloro-7,8-dimethoxy-1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine in 15 ml of formic acid and 10 ml of formaldehyde is refluxed for 18 hours. The reaction mixture is evaporated to dryness, 20 ml of 6N hydrochloric acid is added and the solution is again evaporated to dryness to give a liquid. The latter is treated with 20 ml of 10% sodium hydroxide solution and the mixture is extracted with ether. The dried extract is evaporated to give 6-chloro-7,8-dimethoxy-3-methyl-1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine.

reactant | 6-chloro-7,8-dimethoxy-1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine | 3.7 g | ClC1=C(C(=CC=2C(CNCCC21)C2=CC=CC=C2)OC)OC | C18H20ClNO2
reactant | sodium hydroxide | 20 ml | [OH-].[Na+]
reactant | formic acid | 15 ml | C(=O)O | CH2O2
solvent | formaldehyde | 10 ml | C=O | CH2O
product | 6-chloro-7,8-dimethoxy-3-methyl-1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine | ClC1=C(C(=CC=2C(CN(CCC21)C)C2=CC=CC=C2)OC)OC | C19H22ClNO2
